US07655669B2
3-Acetylamino-N-[4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]-5-(trifluoromethyl)-benzamide
Diethylcyanophosphonate (Aldrich, Buchs, Switzerland; 0.66 mL, 4.0 mmol) is added to a stirred mixture of 4-methyl-N-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine (554 mg, 2.0 mmol), 3-acetylamino-5-(trifluoromethyl)-benzoic acid (495 mg, 2.0 mmol) and triethylamine (1.12 mL, 8.0 mmol) in 10 mL N,N-dimethylformamide at 20° C. under an argon atmosphere. After stirring for 18 hours at 20° C., the mixture is treated with saturated aqueous solution of sodium hydrogen carbonate and extracted twice with ethyl acetate. The combined extracts are dried (MgSO4), filtered and the solvent is evaporated off under reduced pressure to afford a crude product. The crude product is purified by column chromatography on silica gel, eluent dichloromethane/methanol/aqueous ammonia. The pure fractions are combined, the solvent is evaporated off under reduced pressure and the residue is crystallised from ethyl acetate-hexane to give the title compound as a cream crystalline solid.

reactant | Diethylcyanophosphonate | 4.0 mmol, 0.66 mL | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | 4-methyl-N-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine | 2.0 mmol, 554 mg | CC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)N | C16H15N5
reactant | 3-acetylamino-5-(trifluoromethyl)-benzoic acid | 2.0 mmol, 495 mg | C(C)(=O)NC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C10H8F3NO3
reactant | triethylamine | 8.0 mmol, 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Acetylamino-N-[4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenyl]-5-(trifluoromethyl)-benzamide | C(C)(=O)NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C(C1)C(F)(F)F | C26H21F3N6O2
